US07326699B2
A solution of 50 mg (0.09 mmol) of trans-toluene-4-sulfonic acid 3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl ester in 1 ml of morpholine (Fluka, Buchs, Switzerland) is stirred at RT for 72 h. The solvent is evaporated to dryness and the residue is purified by flash-chromatography (ethylacetate:methanol:NH4OHaqu.=95:5:1) to provide trans-5-(3-benzyloxy-phenyl)-7-(3-morpholin-4-ylmethyl-cyclobutyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine. Analytical HPLC: tR=9.29 min (Grad 1); ES-MS: m/eo=470.0.

reactant | trans-toluene-4-sulfonic acid 3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl ester | 0.09 mmol, 50 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@@H]2C[C@H](C2)COS(=O)(=O)C2=CC=C(C=C2)C | C31H30N4O4S
reactant | morpholine | 1 ml | N1CCOCC1 | C4H9NO
product | trans-5-(3-benzyloxy-phenyl)-7-(3-morpholin-4-ylmethyl-cyclobutyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2C[C@H](C2)CN2CCOCC2 | C28H31N5O2
